US07067517B2
4-(Pyrazin-2-yl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-(pyrazin-2-yl)-piperazine- White crystals, m.p. 160–161° C.; HPLC-MS: m/z=446 (M+1) at Rt=4.0 min.; 1H NMR (DMSO-d6): δ 8.60–8.57 (m, 1H), 8.39–8.36 (m, 1H), 8.27–8.22 (dd-like, 1H), 8.14–8.11 (m, 1H)7.91–7.87 (d-like, 1H), 7.29–7.21 (m, 5H), 3.80–3.64 (br, 6H), 3.64–3.50 (br, 2H); IR (KBr): ν 1737, 1714 (C═O) cm−1.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-(pyrazin-2-yl)-piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | KBr | [K+].[Br-]
product | 4-(Pyrazin-2-yl)-piperazine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C1=NC=CN=C1)(F)F | C21H18F3N5O3
